US08466282B2
7-fluoro-1-(4-methoxybutyl)-N-(2-methylpropyl)-N-{(3S,5R)-5-(4H-1,2,4-triazol-3-yl)piperidin-3-yl}-1H-benzimidazole-2-carboxamide dihydrochloride
tert-Butyl (3S,5R)-3-{{{7-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(4H-1,2,4-triazol-3-yl)piperidine-1-carboxylate (130 mg) was dissolved in 2M hydrogen chloride-ethyl acetate (3 ml), and the mixture was stirred at room temperature for 12 hr. The reaction mixture was concentrated to give the object product (91 mg).

reactant | tert-Butyl (3S,5R)-3-{{{7-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(4H-1,2,4-triazol-3-yl)piperidine-1-carboxylate | 130 mg | FC1=CC=CC2=C1N(C(=N2)C(=O)N([C@@H]2CN(C[C@@H](C2)C2=NN=CN2)C(=O)OC(C)(C)C)CC(C)C)CCCCOC | C29H42FN7O4
reactant | hydrogen chloride-ethyl acetate | 2M, 3 ml | C(C)(=O)OCC.Cl
product | 7-fluoro-1-(4-methoxybutyl)-N-(2-methylpropyl)-N-{(3S,5R)-5-(4H-1,2,4-triazol-3-yl)piperidin-3-yl}-1H-benzimidazole-2-carboxamide dihydrochloride | 91 mg | Cl.Cl.FC1=CC=CC2=C1N(C(=N2)C(=O)N([C@@H]2CNC[C@@H](C2)C2=NN=CN2)CC(C)C)CCCCOC | InChI=1S/C24H34FN7O2.2ClH/c1-16(2)14-32(18-11-17(12-26-13-18)22-27-15-28-30-22)24(33)23-29-20-8-6-7-19(25)21(20)31(23)9-4-5-10-34-3;;/h6-8,15-18,26H,4-5,9-14H2,1-3H3,(H,27,28,30);2*1H/t17-,18+;;/m1../s1
